US04032559
b. Ethyl N,2-dicyanoacetimidate
A mixture of 44.70 g (0.302 m) of ethyl 2-cyanoacetimidate hydrochloride and 13.29 g of cyanamide in 400 ml of benzene is stirred under nitrogen for fifteen hours. The cyanamide is purified by ether extraction and concentration of the soluble portion in vacuo. After reaction, the precipitated ammonium chloride is filtered. The residue is washed twice with 50 ml benzene portions. The combined organic phases are concentrated in vacuo to give 41.36 g (100%) of a pale yellow crystalline material. The crystallization is exothermic. The product is very clean by tlc and nmr. The crude crystalline material melts at 51°-63° C.

reactant | ethyl 2-cyanoacetimidate hydrochloride | 44.70 g | Cl.C(#N)CC(OCC)=N
reactant | cyanamide | 13.29 g | N#CN | CH2N2
solvent | benzene | 400 ml | C1=CC=CC=C1 | C6H6
product | Ethyl N,2-dicyanoacetimidate | 41.36 g, 100% | C(#N)N=C(CC#N)OCC | C6H7N3O
